US07087601B2
1-[4-(1,3-Benzoxazol-2-yl)-2-methoxyphenyl]cyclopentanecarbonitrile
[4-(1,3-Benzoxazol-2-yl)-2-methoxyphenyl]acetonitrile (130 mg, 0.49 mmol) in THF (5.0 mL) was cooled to −78° C. under argon atmosphere. Sodium bis(trimethylsilyl)amide (1.8 mL, 1.08 mmol) was added slowly and after fifteen minutes, added 1,4-dibromobutane (0.07 mL, 0.59 mmol) to dark brown reaction mixture. Let mixture warm to rt overnight. After concentrating reaction mixture in vacuo, the resulting pink oil was purified by flash chromatography, using a gradient elution of 1:9 EtOAc:hexanes to 1:4 EtOAc:hexanes. This afforded the desired compound, 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclopentanecarbonitrile, as a yellow solid. 1H NMR(CDCl3, 300 MHz) δ 7.86–7.26 (m, 7H), 4.07 (s, 3H), 2.59–1.91 (m, 8H). MS (ESI) 319.1 (M+H)+.

reactant | [4-(1,3-Benzoxazol-2-yl)-2-methoxyphenyl]acetonitrile | 0.49 mmol, 130 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)OC | C16H12N2O2
reactant | Sodium bis(trimethylsilyl)amide | 1.08 mmol, 1.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,4-dibromobutane | 0.59 mmol, 0.07 mL | BrCCCCBr | C4H8Br2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclopentanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCCC2)C#N)OC | C20H18N2O2
